US05998433
a) Synthesis of 6-(4-benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine
To a solution of 0.260 g (0.785 mmol) of 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine in 10 ml of acetic acid, 0.12 ml (1.2 mmol) of piperidine and 96 mg (1.2 mmol) of 37% aqueous formaldehyde were added, followed by stirring at 100° C. for 1 hour. After the solvent was distilled off under reduced pressure, the residual solution was alkalified with aqueous sodium hydroxide and extracted with ethyl acetate 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (ethyl acetate to ethyl acetate/methanol=4/1) to yield the desired product.

reactant | 6-(4-benzoylbenzoyl)-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | 0.785 mmol, 0.260 g | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=CO3)C=C1 | C21H17NO3
reactant | piperidine | 1.2 mmol, 0.12 ml | N1CCCCC1 | C5H11N
reactant | formaldehyde | 1.2 mmol, 96 mg | C=O | CH2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 6-(4-benzoylbenzoyl)-2-piperidinomethyl-4,5,6,7-tetrahydrofuro[2,3-c]pyridine | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)N2CC3=C(CC2)C=C(O3)CN3CCCCC3)C=C1 | C27H28N2O3
